US07582625B2
(R)-1-(4-hydroxy-3,5-dimethyl-benzyl)-2-oxo-2-[4-(1-oxo-1λ4-thiomorpholin-4-yl)-piperidin-1-yl]-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
Prepared analogously to Example 1.21 from 80 mg (0.17 mmol) (R)-2-(4-hydroxy-3,5-dimethyl-phenyl)-1-carboxy-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate, 77 μL (0.55 mmol) triethylamine and 47 mg (0.17 mmol) 4-piperidin-4-yl-thiomorpholine-1-oxide (used as the bis-hydrochloride salt).

reactant | (R)-2-(4-hydroxy-3,5-dimethyl-phenyl)-1-carboxy-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | 0.17 mmol, 80 mg | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@H](CC1=CC(=C(C(=C1)C)O)C)C(=O)O)C=CC=C2 | C26H31N3O6
reactant | triethylamine | 0.55 mmol, 77 μL | C(C)N(CC)CC | C6H15N
reactant | 4-piperidin-4-yl-thiomorpholine-1-oxide | 0.17 mmol, 47 mg | N1CCC(CC1)N1CCS(CC1)=O | C9H18N2OS
product | (R)-1-(4-hydroxy-3,5-dimethyl-benzyl)-2-oxo-2-[4-(1-oxo-1λ4-thiomorpholin-4-yl)-piperidin-1-yl]-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(N1CCC(CC1)N1CCS(CC1)=O)=O)CC1=CC(=C(C(=C1)C)O)C)C=CC=C2 | C35H47N5O6S
